US08609647B2
(6) Optically-Active Compound of 3-benzyloxycarbonylamino-3-(1,1-difluoroallyl)pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of an optically-active compound of 3-(1,1-difluoroallyl)pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester (10.6 g) and triethylamine (10.2 ml) in toluene (106 ml) heated to 100° C. was added dropwise diphenylphosphoryl azide (10.2 ml). The reaction mixture was stirred at 100° C. for 50 minutes, and then thereto were added benzyl alcohol (5.6 ml) and 4-dimethylaminopyridine (0.89 g). The mixture was stirred at 100° C. for 16.5 hours, and then cooled to room temperature. Then, thereto was added 5% aqueous potassium bisulfate solution, and the mixture was extracted with toluene. The organic layer was sequentially washed with 1M aqueous sodium hydroxide solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/chloroform/ethyl acetate=5/4/1 to 4/4/1) to give the titled compound (15.5 g).

reactant | 3-(1,1-difluoroallyl)pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | 10.6 g | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)O)C(C=C)(F)F | C13H19F2NO4
reactant | diphenylphosphoryl azide | 10.2 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 5.6 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
reactant | triethylamine | 10.2 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 106 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.89 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-benzyloxycarbonylamino-3-(1,1-difluoroallyl)pyrrolidine-1-carboxylic acid tert-butyl ester | 15.5 g | C(C)(C)(C)OC(=O)N1CC(CC1)(C(C=C)(F)F)NC(=O)OCC1=CC=CC=C1 | C20H26F2N2O4
